* postlayout-cl-model: miller
.lib '{PDK_MODELS}/cornerHBT.lib' hbt_typ
.lib '{PDK_MODELS}/cornerMOSlv.lib' mos_tt
.lib '{PDK_MODELS}/cornerRES.lib' res_typ

* vga_dut — post-layout DUT wrapper; do not edit by hand
.include {IND_SHUNT_INC}
.subckt vga_dut outp outn inp inn vicm steerp steern vdd vss mgate
X$1 outn nlp2 vss rppd w=5u l=1.4u ps=0u b=0 m=1
XQd2 outn vicm ed2 vss npn13G2 we=70n le=900n nx=1
XQ2 outn inn em vss npn13G2 we=70n le=900n nx=1
XQ1 outp inp em vss npn13G2 we=70n le=900n nx=1
X$5 outp nlp1 vss rppd w=5u l=1.4u ps=0u b=0 m=1
XQd1 outp vicm ed1 vss npn13G2 we=70n le=900n nx=1
Xtail2 tx2 mgate vss vss sg13_lv_nmos l=1u w=246.75u as=83.895p ad=83.895p ps=510.5u pd=510.5u rfmode=0 pre_layout=0
Xps2 em steerp tx2 vss sg13_lv_nmos l=0.5u w=200u as=68p ad=68p ps=413.6u pd=413.6u rfmode=0 pre_layout=0
Xpd2 ed2 steern tx2 vss sg13_lv_nmos l=0.5u w=200u as=68p ad=68p ps=413.6u pd=413.6u rfmode=0 pre_layout=0
Xtail1 tx1 mgate vss vss sg13_lv_nmos l=1u w=246.75u as=83.895p ad=83.895p ps=510.5u pd=510.5u rfmode=0 pre_layout=0
Xps1 em steerp tx1 vss sg13_lv_nmos l=0.5u w=200u as=68p ad=68p ps=413.6u pd=413.6u rfmode=0 pre_layout=0
Xmdiode mgate mgate vss vss sg13_lv_nmos l=1u w=246.75u as=83.895p ad=83.895p ps=510.5u pd=510.5u rfmode=0 pre_layout=0
Xpd1 ed1 steern tx1 vss sg13_lv_nmos l=0.5u w=200u as=68p ad=68p ps=413.6u pd=413.6u rfmode=0 pre_layout=0
C0 ed1 em 7.07468f
C1 ed1 outp 0.14307f
C2 ed1 steern 8.38273f
C3 ed1 steerp 1.80466f
C4 ed1 vicm 2.10722f
C5 ed1 vss 12.78655f
C6 ed2 em 5.74469f
C7 ed2 outn 0.14307f
C8 ed2 steern 6.22961f
C9 ed2 steerp 0.00671f
C10 ed2 vicm 0.21609f
C11 ed2 vss 13.09472f
C12 em inn 0.73037f
C13 em inp 0.73037f
C14 em outn 0.2645f
C15 em outp 0.2645f
C16 em steern 4.36208f
C17 em steerp 15.34104f
C18 em vicm 0.97711f
C19 em vss 26.33574f
C20 inn mgate 0.12303f
C21 inn outn 0.01778f
C22 inn steern 0.62994f
C23 inn steerp 0.62994f
C24 inn vdd 0.21688f
C25 inn vicm 0.63439f
C26 inn vss 10.16283f
C27 inp mgate 0.12534f
C28 inp outp 0.01778f
C29 inp steern 0.62994f
C30 inp steerp 0.62994f
C31 inp vdd 0.21688f
C32 inp vicm 0.63439f
C33 inp vss 10.24174f
C34 mgate vdd 0.77153f
C35 mgate vss 0.14879p
C36 nlp1 outp 0.96476f
C37 nlp1 vdd 0.75958f
C38 nlp1 vss 5.14512f
C39 nlp2 outn 0.96476f
C40 nlp2 vdd 0.75958f
C41 nlp2 vss 5.14512f
C42 outn vdd 0.47412f
C43 outn vicm 0.05791f
C44 outn vss 12.6994f
C45 outp vdd 0.47412f
C46 outp vicm 0.05908f
C47 outp vss 12.91672f
C48 steern steerp 1.40687f
C49 steern vdd 0.33022f
C50 steern vss 37.38353f
C51 steerp vdd 0.33022f
C52 steerp vss 39.24295f
C53 vdd vicm 0.33022f
C54 vdd vss 0.1375p
C55 vicm vss 9.63924f
Xl1 vdd nlp1 vss ind_shunt
Xl2 vdd nlp2 vss ind_shunt
.ends vga_dut
