* vga_dut_core — extracted core; do not edit by hand
.subckt vga_dut_core outp outn inp inn vicm steerp steern vdd vss mgate nlp1 nlp2 ed1 em ed2
X$1 outn nlp2 vss rppd w=5u l=1.4u ps=0u b=0 m=1
XQd2 outn vicm ed2 vss npn13G2 we=70n le=900n nx=1
XQ2 outn inn em vss npn13G2 we=70n le=900n nx=1
XQ1 outp inp em vss npn13G2 we=70n le=900n nx=1
X$5 outp nlp1 vss rppd w=5u l=1.4u ps=0u b=0 m=1
XQd1 outp vicm ed1 vss npn13G2 we=70n le=900n nx=1
Xtail2 tx2 mgate vss vss sg13_lv_nmos l=1u w=246.75u as=83.895p ad=83.895p ps=510.5u pd=510.5u rfmode=0 pre_layout=0
Xps2 em steerp tx2 vss sg13_lv_nmos l=0.5u w=200u as=68p ad=68p ps=413.6u pd=413.6u rfmode=0 pre_layout=0
Xpd2 ed2 steern tx2 vss sg13_lv_nmos l=0.5u w=200u as=68p ad=68p ps=413.6u pd=413.6u rfmode=0 pre_layout=0
Xtail1 tx1 mgate vss vss sg13_lv_nmos l=1u w=246.75u as=83.895p ad=83.895p ps=510.5u pd=510.5u rfmode=0 pre_layout=0
Xps1 em steerp tx1 vss sg13_lv_nmos l=0.5u w=200u as=68p ad=68p ps=413.6u pd=413.6u rfmode=0 pre_layout=0
Xmdiode mgate mgate vss vss sg13_lv_nmos l=1u w=246.75u as=83.895p ad=83.895p ps=510.5u pd=510.5u rfmode=0 pre_layout=0
Xpd1 ed1 steern tx1 vss sg13_lv_nmos l=0.5u w=200u as=68p ad=68p ps=413.6u pd=413.6u rfmode=0 pre_layout=0
.ends vga_dut_core
