* term_dut — generated from DeviceSpecs; do not edit by hand
.SUBCKT term_dut inp inn vdd vss
D1 vdd inp vss diodevdd_2kv m=1
D2 vdd inp vss diodevss_2kv m=1
D3 vdd inn vss diodevdd_2kv m=1
D4 vdd inn vss diodevss_2kv m=1
R1 inp vtt vss rsil m=1 l=2.35u w=0.5u
R2 inn vtt vss rsil m=1 l=2.35u w=0.5u
D5 vss vdd nmoscl_2 m=1
R3 vdd vtt vss rppd m=1 l=0.5u w=1u
R4 vtt vss vss rppd m=1 l=5u w=1u
C1 vtt vss cap_cmim w=20u l=20u
.ENDS term_dut
