* Extracted by KLayout with SG13G2 LVS runset on : 20/08/2026 09:07

.SUBCKT term_dut inp vtt inn vss vdd
D$1 vss \$I122 vss diodevdd_2kv m=1
D$2 vss vss vss diodevdd_2kv m=1
R$3 inp vtt vss rsil w=0.5u l=2.35u ps=0u b=0 m=1
D$4 \$I123 vss vss diodevss_2kv m=1
C$5 \$33 vtt cap_cmim w=20u l=20u A=400p P=80u m=1
R$6 vtt vss vss rppd w=1u l=5u ps=0u b=0 m=1
R$7 vdd vtt vss rppd w=1u l=0.5u ps=0u b=0 m=1
D$8 vss vss nmoscl_2 m=1
R$9 inn vtt vss rsil w=0.5u l=2.35u ps=0u b=0 m=1
D$10 \$I124 vss vss diodevss_2kv m=1
.ENDS term_dut
